US04933330
Methyl 2-acetoxy-5-benzylideneaminobenzoate
Methyl 2-hydroxy-5-benzylideneaminobenzoate (23.5 g, 92.2 mmole) was dissolved in pyridine (50 ml) and acetic anhydride (11 ml) was added after which the reaction mixture was left at room temperature for 48 hours and evaporated to dryness, in vacuo. The remaining material was recrystallized from hexane to give the title compound (13.4 g, 49%), m.p. 101°-103° C. Found (Calc. for C17H15NO4) C 68.57 (68.69), H 4.98 (5.05) N 4.80 (4.71).

reactant | Methyl 2-hydroxy-5-benzylideneaminobenzoate | 92.2 mmole, 23.5 g | OC1=C(C(=O)OC)C=C(C=C1)N=CC1=CC=CC=C1 | C15H13NO3
reactant | acetic anhydride | 11 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-acetoxy-5-benzylideneaminobenzoate | 13.4 g, 49% | C(C)(=O)OC1=C(C(=O)OC)C=C(C=C1)N=CC1=CC=CC=C1 | C17H15NO4
